Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine / Iodinated Contrast Media - IV Dye / Antihistamines - 
Alkylamine / Antihistamines - Ethanolamine / Antihistamines - 
Ethylenediamine / Antihistamines - Piperazine / Antihistamines - 
Piperidine
 
Attending: ___.
 
Chief Complaint:
Chest tightness, shortness of breath
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ year old lady with history of fibromyalgia, anxiety, anemia 
p/w  
 2 weeks of chest tightness. Initially associated with a cold 
but cold has resolved and chest tightness still present. Says 
"It feels like someone blew up a balloon inside me". Pain worse 
when lying down, winded and lightheaded with any exertion. Also 
notes 1 week of epigastric pain. had been taking NSAIDs 
regularly for headahces and chronic pain, PCP had asked her to 
cut back. Denies lower extremity swelling, but describes ___ 
cramping pain. +some nausea, denies fevers, chills.  
 Labs @ ___ ED notable for stable H&H from 
previous, d-dimer 584, Chem-7 and LFTs unremarkable, trop neg  
 Has history of anaphylaxis to CT dye. Transferred to ___ ED 
for V/Q scan to r/o PE.  
 In the ED, initial vitals: 99.5 75 106/66 18 98% RA  
 - Labs notable for: Trop-T: <0.01, D-Dimer: 363, proBNP: 14, 
WBC 8.2  
 - Imaging notable for: ___: no DVT  
 - Patient given: ___ 03:06 IH Albuterol 0.083% Neb Soln 
1 NEB  
 ___ 03:06 IH Ipratropium Bromide Neb 1 NEB  
 - Vitals prior to transfer: 99.0 68 98/60 18 100% RA  
 
 On arrival to the floor, pt confirmed the above. Notes 
epigastric pain.  
 REVIEW OF SYSTEMS: No fevers, chills. No changes in vision or 
hearing, no changes in balance. No vomiting. No diarrhea or 
constipation. No dysuria or hematuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits.  
 
Past Medical History:
 Asthma  
 GERD  
 Anemia  
 Anxiety  
 ___  
 Fibromyalgia  
 Uterine fibroids s/p hysterecomy  
 
 
Social History:
___
Family History:
Cancer - Breast Mother  
Cancer - ___ Maternal Grandmother  
CAD/PVD Maternal Grandfather 

Negative family hx for blood clots, hematologic disorders. 
 
Physical Exam:
=====================
ADMISSION EXAM
=====================
 Vitals: 97.9PO 105/68 71 16 99 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, no 
pericardial rub  
 Abdomen: soft, +epigastric tenderness, non-distended, bowel 
sounds present, no rebound tenderness or guarding, no 
organomegaly  
 Ext: Warm, well perfused, no cyanosis or edema  
 Skin: Without rashes or lesions  
 Neuro: A&Ox3. Grossly intact.  

=====================
DISCHARGE EXAM
=====================
Vitals: 97.7  101/65 65 18 97    
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, no 
pericardial rub  
Abdomen: soft, mild umbilical and RLQ tenderness, moderate 
epigastric tenderness, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, no cyanosis or edema, no tenderness on 
palpation of L calf  
Skin: Without rashes or lesions  
Neuro: A&Ox3. Grossly intact.
 
Pertinent Results:
======================
ADMISSION LABS
======================
___ 04:00AM   WBC-8.2 RBC-3.66* HGB-11.0* HCT-32.3* MCV-88 
MCH-30.1 MCHC-34.1 RDW-11.9 RDWSD-38.6
___ 04:00AM   NEUTS-40.5 ___ MONOS-7.1 EOS-6.5 
BASOS-1.0 IM ___ AbsNeut-3.30 AbsLymp-3.64 AbsMono-0.58 
AbsEos-0.53 AbsBaso-0.08
___ 04:00AM   PLT COUNT-234
___ 04:00AM   GLUCOSE-95 UREA N-8 CREAT-0.5 SODIUM-138 
POTASSIUM-3.7 CHLORIDE-103 TOTAL CO2-21* ANION GAP-18
___ 04:00AM   ALT(SGPT)-6 AST(SGOT)-11 ALK PHOS-46 TOT 
BILI-0.2
___ 04:00AM   LIPASE-28
___ 04:00AM   ALBUMIN-4.6 IRON-67
___ 04:00AM   calTIBC-312 FERRITIN-42 TRF-240

___ 04:00AM   D-DIMER-
___ 04:00AM   cTropnT-<0.01
___ 04:00AM   proBNP-14

========================
DISCHARGE LABS
========================
___ 08:00AM BLOOD WBC-6.0 RBC-3.55* Hgb-10.7* Hct-31.6* 
MCV-89 MCH-30.1 MCHC-33.9 RDW-11.9 RDWSD-39.4 Plt ___
___ 08:00AM BLOOD Glucose-90 UreaN-10 Creat-0.6 Na-136 
K-3.8 Cl-103 HCO3-22 AnGap-15
___ 08:00AM BLOOD Calcium-9.1 Phos-3.6 Mg-2.3

=========================
MICROBIOLOGY
=========================
NONE

=======================
IMAGING/STUDIES
=======================
___ ___ IMPRESSION: 
No evidence of deep venous thrombosis in the left lower 
extremity veins.

CXR ___ IMPRESSION:  
In comparison with the study of ___ from an outside 
facility, there is
little interval change.  Hyperexpansion of the lungs, but no 
evidence of acute pneumonia, vascular congestion, or pleural 
effusion.

 
VQ SCAN ___ IMPRESSION:  No evidence of ventilation or 
perfusion defects.  Very low likelihood ratio for acute 
pulmonary embolism.
 
 
Brief Hospital Course:
___ y/o F w/ PMH fibromyalgia, asthma, GERD who presented to OSH 
with 2wk hx of dyspnea on exertion and "chest tightness." 
Patient had recently had a URI around the onset of her symptoms. 
Patient endorsed occasional pleuritic chest pain. Therefore, 
D-dimer was ordered that was elevated at 584. Since patient was 
allergic to IV contrast, she was transferred to ___ for V/Q 
scan for r/o PE. At ___, repeat D-dimer was normal. All other 
blood work including troponin, BNP, CK-MB were within normal 
limits. EKG did not show signs of right heart strain or cardiac 
ischemia, pericarditis. CXR did not show consolidations, 
infiltrates, opacities or pleural effusions. CXR did show some 
mild hyperinflation concerning for early COPD. Patient was 
complaining of ___ calf pain/cramping, but ___ was negative for 
DVT. No other history or risk factors for thromboembolic 
disease. 

On hospital day 1, patient had ambulatory O2 sat of 79% with 
symptoms of mild lightheadedness and SOB on exertion. She was 
started on Lovenox BID dosing for anticoagulation to treat 
empirically for PE while awaiting V/Q scan. V/Q scan on ___ 
was very low likelihood for PE. Three separate repeat ambulatory 
O2 saturations were >95% on RA. It was felt that her ambulatory 
O2 sat of 79% was spurious. Since patient was hemodynamically 
stable, she was discharged to follow up additional work up for 
SOB/chest tightness. 

Additionally, patient was complaining of 1 wk of worsening 
epigastric abdominal pain, not consistent with previous GERD sx. 
She had mild nausea but no vomiting or changes in bowel 
movements. Abdominal exam was benign. Patient was treated 
symptomatically with sucralfate and continued on home PPI. 
Otherwise maintained good PO intake. Patient did not have bowel 
movement so unable to guiac stools, but H&H stable. Recommend 
follow up with PCP. Patient informed us that PCP had already 
scheduled EGD.

#CHEST TIGHTNESS/SOB: Pt presented to OSH ED with 2 weeks of 
chest tightness and dyspnea on exertion following a URI. D-dimer 
at OSH was elevated (584) raising c/f acute PE. In the ED, trops 
neg x2, no e/o ischemia on EKG. BNP neg. On the floor pt found 
to desat to 79% with ambulation. Differential included acute PE 
vs CTEPH vs primary pulmonary HTN. Possible acute pericarditis 
given hx recent URI. For PE, pt smokes up to 1 ppd but otherwise 
no clear risk factors for PE (non-obese, no HTN, no prior VTE, 
no recent immobilization, no hormonal meds, neg family hx). 
Well's Score is 0. Pt did describe ___ cramping pain that she 
has had for many months but ___ with no evidence of DVT. 
Repeat D-dimer on admission was nl (363). Pt was started on 
enoxaparin preemptively while awaiting VQ scan. VQ scan returned 
very low likelihood of acute PE. Enoxaparin was discontinued. 
Multiple repeat ambulatory O2 sats were in high ___ (>95% O2 sat 
on RA). Therefore, it was felt the reading of 79% was falsely 
low. Since patient was hemodynamically stable, she was 
discharged to follow up with her PCP. Would consider TTE as 
outpatient since study was unable to be completed as an 
inpatient.    
 
#ABDOMINAL PAIN: Pt has hx of GERD and reports 1 week hx of 
epigastric pain unlike her usual GERD sx arising in setting of 
increasing NSAID intake for headaches and chronic pain. Patient 
continued to tolerate PO but was eating less d/t pain and mild 
nausea. On exam pt has moderate epigastric tenderness and mild 
RLQ and periumbilical tenderness. Labs including WBC count 
remained within normal limits. Pt may have PUD from increased 
NSAID use. H. pylori ab tested ___ at OSH and was neg. 
EKG/trops negative. LFTs WNL. Patient was continued on home 
omeprazole dosing and again counseled to avoid NSAID use. Unable 
to guiac stools since no bowel movement during admission. 
Patient was given script for sucralfate for symptomatic relief 
upon discharge. Would consider EGD as outpatient if epigastric 
pain does not resolve. 

#ANEMIA: Pt's hemoglobin is 11.1 on admission, down from 12.2 
when last measured in ___. Has history of iron deficiency 
anemia in the past. Iron studies normal with transferrin 
saturation of 21.5%. ___ be secondary to slow GI bleed in 
setting of possible PUD. CBC remained stable during admission. 
No evidence of acute bleed. 

___ PAIN: Pt describes an intermittent cramping pain in her L 
calf. Has had it for many months though worse over last 2 months 
to the point of limiting ambulation. Will occasionally swell. 
___ is normal on exam with normal strength. Pain may be ___  
muscle spasm. ___ of ___ without evidence of DVT. Patient 
counseled to use tylenol PRN for pain. 

#ANXIETY: Continued home lorazepam 1mg BID prn anxiety  

#ASTHMA: Continued home fluticasone inhaler. Patient stated she 
had an albuterol inhaler at home as well. Patient not taking 
fluticasone inhaler daily. Counseled patient to take fluticasone 
inhaler daily regardless of symptoms and albuterol as needed.  

=========================
TRANSITIONAL ISSUES
=========================
[ ] Recommend reschedule outpatient echocardiogram to evaluate 
for ?pericardial effusion vs evidence of pulmonary hypertension.
[ ] Consider noncontrast CT chest to further dyspnea
[ ] Consider PFTs to evaluate hyperinflation seen on chest X-ray 
concerning for possible early COPD. 
[ ] Consider EGD to evaluate epigastric pain. 
[ ] Discharged with prescription for sucralfate for symptomatic 
relief of abdominal pain.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO DAILY 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. LORazepam 1 mg PO BID:PRN anxiety 
4. Tretinoin 0.05% Cream 1 Appl TP QHS 
5. Fish Oil (Omega 3) 1000 mg PO BID 
6. Ascorbic Acid Dose is Unknown  PO Frequency is Unknown 
7. azelastine 137 mcg (0.1 %) nasal BID:PRN 
8. rizatriptan 10 mg oral ONCE:PRN migraine 
9. Vitamin D 1000 UNIT PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath 

 
Discharge Medications:
1.  Sucralfate 1 gm PO QID:PRN abdominal pain 
RX *sucralfate [Carafate] 1 gram/10 mL 10 mL suspension(s) by 
mouth QID PRN Refills:*0 
2.  Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath  
3.  Ascorbic Acid ___ mg PO DAILY  
4.  azelastine 137 mcg (0.1 %) nasal BID:PRN  
5.  Fish Oil (Omega 3) 1000 mg PO BID  
6.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
7.  LORazepam 1 mg PO BID:PRN anxiety  
8.  Omeprazole 40 mg PO DAILY  
9.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
10.  rizatriptan 10 mg oral ONCE:PRN migraine  
11.  Tretinoin 0.05% Cream 1 Appl TP QHS  
12.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Dyspnea on Exertion

Secondary Diagnosis: Asthma, GERD, Fibromyalgia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___.

WHY YOU WERE ADMITTED TO THE HOSPITAL?
You were having chest tightness and shortness of breath. 

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?
- You had an ultrasound of your left leg that showed no blood 
clots in your leg veins. 
- You had a scan of your chest that was normal. You do not have 
any evidence of blood clots. 
- Your blood work was normal and you did not have evidence of a 
heart attack. 

WHAT YOU NEED TO DO WHEN YOU GO HOME?
Please follow up with your primary care doctor and work with her 
to schedule an echocardiogram and any other tests you may need 
to evaluate your symptoms. 

It was a pleasure taking care of you!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___